US07790745B2
(R)-2-tert-butyl 1-methyl 6-(3-hydroxybenzyloxy)-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate
Example 4 was synthesized from (3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane and (R)-2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate using a similar procedure as described in procedure 2, followed by tetrabutylammonium fluoride deprotection. HPLC retention time (Method c)=3.75 min. LC/MS (ESI) (M+H)+=436.20. 1H NMR (400 MHz, CDCl3) δ ppm 1.47 (s, 4H), 1.49 (s, 5H), 2.73-2.99 (m, 2H), 3.62-3.83 (m, 2H), 3.69 (s, 3H), 5.00 (s, 2H), 5.12 (brs, 1H), 5.35 (d, J=14.65 Hz, 0.5H), 5.52 (d, J=7.07 Hz, 0.5H), 6.74-6.97 (m, 3H), 6.89-6.93 (m, 1H), 6.96 (d, J=8.08 Hz, 1H), 7.23 (d, J=7.83 Hz, 1H), 7.37 (dd, J=8.59, 4.29 Hz, 1H).

reactant | (3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane | BrCC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1 | C13H21BrOSi
reactant | (R)-2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate | OC=1C=C2CCN([C@H](C2=CC1)C(=O)OC)C(=O)OC(C)(C)C | C16H21NO5
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (R)-2-tert-butyl 1-methyl 6-(3-hydroxybenzyloxy)-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate | OC=1C=C(COC=2C=C3CCN([C@H](C3=CC2)C(=O)OC)C(=O)OC(C)(C)C)C=CC1 | C23H27NO6
